US07582625B2
6.1 b) 1′-{(R)-3-(4-hydroxy-3,5-dimethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]propionyl}-1,4′-bipiperidinyl-4-carboxylic acid
100 mg (0.13 mmol) 1′-{(R)-3-(4-benzyloxy-3,5-dimethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-1,4′-bipiperidinyl-4-carboxylic acid in 10 mL MeOH were combined with 30 mg 10% Pd/C and hydrogenated at 50° C. and 3 bar hydrogen for 2 h. The catalyst was removed by suction filtering and the solvent was concentrated by evaporation i. vac. The residue was triturated with diethyl ether, suction filtered and dried.

reactant | 1′-{(R)-3-(4-benzyloxy-3,5-dimethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-1,4′-bipiperidinyl-4-carboxylic acid | 0.13 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C[C@H](C(=O)N1CCC(CC1)N1CCC(CC1)C(=O)O)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)C | C44H55N5O7
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 1′-{(R)-3-(4-hydroxy-3,5-dimethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]propionyl}-1,4′-bipiperidinyl-4-carboxylic acid | OC1=C(C=C(C=C1C)C[C@H](C(=O)N1CCC(CC1)N1CCC(CC1)C(=O)O)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)C | C37H49N5O7
